US07176242B2
Step 6: 1-Butyl-4-[methyl(methylsulfonyl)amino]-1H-indole-6-carboxylic acid
To a mixture of methyl 4-[methyl(methylsulfonyl)amino]-1H-indole-6-carboxylate (0.437 g) in DMF(15 mL) was added potassium hydroxide (0.087 g) and iodobutane (0.34 mL). The mixture was heated to 70° C. for 6 h. then stirred at room temperature for 72 h. The mixture was partitioned between water and ethyl acetate, the layers were separated and the organic layer washed three times with water. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was dissolved in methanol (5 mL) to which was added 1N NaOH (2 mL) and the mixture heated to 50° C. for 1 h. The mixture was cooled to room temperature and poured into water and washed with ether. The aqueous layer was acidified to pH 4 with 1N HCl and the product extracted into ethyl acetate which was dried over anhydrous sodium sulfate, filtered and concentrated to dryness to give 0.377 g of the title compound: 1H NMR (CDCl3) δ 0.973, 1.38, 1.87, 3.01, 3.45, 4.21, 6.71, 7.36, 7.82, 8.18.

reactant | methyl 4-[methyl(methylsulfonyl)amino]-1H-indole-6-carboxylate | 0.437 g | CN(C1=C2C=CNC2=CC(=C1)C(=O)OC)S(=O)(=O)C | C12H14N2O4S
reactant | potassium hydroxide | 0.087 g | [OH-].[K+]
reactant | iodobutane | 0.34 mL | ICCCC | C4H9I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-Butyl-4-[methyl(methylsulfonyl)amino]-1H-indole-6-carboxylic acid | 0.377 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)O)N(S(=O)(=O)C)C | C15H20N2O4S
